US08247556B2
(S)-2-((1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-N-(3-(1,1,1,3,3,3-hexafluoro-2-(pyrrolidin-2-ylmethoxy)propan-2-yl)phenyl)nicotinamide
The titled compound was prepared from (S)-2-(2,2,2-trifluoro-1-{3-[(2-fluoro-pyridine-3-carbonyl)-amino]-phenyl}-1-trifluoromethyl-ethoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride by the method described in Example 1. MS (ES+): 593 (M+H). Calc'd. for C28H26F6N6O2—592.54.

reactant | (S)-2-(2,2,2-trifluoro-1-{3-[(2-fluoro-pyridine-3-carbonyl)-amino]-phenyl}-1-trifluoromethyl-ethoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)NC(=O)C=1C(=NC=CC1)F | C25H26F7N3O4
reactant | C-(1H-pyrrolo[2,3-b]pyridin-4-yl)-methylamine dihydrochloride | Cl.Cl.N1C=CC=2C1=NC=CC2CN
product | (S)-2-((1H-pyrrolo[2,3-b]pyridin-4-yl)methylamino)-N-(3-(1,1,1,3,3,3-hexafluoro-2-(pyrrolidin-2-ylmethoxy)propan-2-yl)phenyl)nicotinamide | N1C=CC=2C1=NC=CC2CNC2=C(C(=O)NC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)OC[C@H]1NCCC1)C=CC=N2 | C28H26F6N6O2
